US06596898B2
Cyclohexane (76.6 g), 2,2′-methylenebis[(4S)-4-tert-butyl-2-oxazoline] (293 mg, 1.1 mmol), and copper (II) trifluoromethanesulfonate (361 mg, 1.0 mmol) were added in an autoclave, and then 1-chloro-1-fluoroethylene (80 g, 1.0 mol) was charged under elevated pressure. After the mixture was warmed to 30° C., a mixed solution containing 95% of ethyl diazoacetate (12.01 g, 100 mmol) and cyclohexane (50 g) was charged under elevated pressure over five hours. Cyclohexane (20 ml) was further charged under elevated pressure and stirring was continued at the same temperature for 1 hour, and then the internal pressure was released to obtain a solution of ethyl 2-chloro-2-fluorocyclopropane-carboxylate in cyclohexane (183.86 g). The content of the ethyl 2-chloro-2-fluorocyclopropanecarboxylate was 4.92% (yield based on ethyl diazoacetate: 54.3%), and the ratio of cis-isomer/trans-isomer was 59.5/40.5. The optical purity of the cis-isomer was 71% e.e. (1S,2R), and the optical purity of the trans-isomer was 19% e.e. (1S,2S).

reactant | 2,2′-methylenebis[(4S)-4-tert-butyl-2-oxazoline] | 1.1 mmol, 293 mg | C(C=1OC[C@@H](N1)C(C)(C)C)C=1OC[C@@H](N1)C(C)(C)C | C15H26N2O2
reactant | 1-chloro-1-fluoroethylene | 1.0 mol, 80 g | ClC(=C)F | C2H2ClF
reactant | ethyl diazoacetate | 100 mmol, 12.01 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | cyclohexane | 183.86 g | C1CCCCC1 | C6H12
catalyst | copper (II) trifluoromethanesulfonate | 1.0 mmol, 361 mg | FC(S(=O)(=O)[O-])(F)F.[Cu+2].FC(S(=O)(=O)[O-])(F)F
solvent | Cyclohexane | 20 ml | C1CCCCC1 | C6H12
solvent | cyclohexane | 50 g | C1CCCCC1 | C6H12
solvent | Cyclohexane | 76.6 g | C1CCCCC1 | C6H12
product | ethyl 2-chloro-2-fluorocyclopropane-carboxylate | ClC1(C(C1)C(=O)OCC)F | C6H8ClFO2
